US04338314
A solution of 20 g 7-chloro-1-(β-chloroethyl)2-chloromethyl-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine in 100 ml dioxane and 250 ml of 6% sodium hydroxide solution is heated under reflux for a period of about 5.5 hours. After heating the solution, the substance is isolated from chloroform under vacuum and subsequently purified chromatographically using aluminum oxide (activity degree II) as absorbent and methylene chloride as eluant. 12.8 g 1,2,4,4a-tetrahydro-9-chloro-7-phenyl-5H[1,4]oxazino-[4,3-a][1,4]benzodiazepine as an oil is obtained. The maleanate having a melting point of 143° to 145° C. is crystallized from isopropanol/ether. The basic compound crystallized from hexane melts at 156°-158° C.

reactant | 7-chloro-1-(β-chloroethyl)2-chloromethyl-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine | 20 g | ClC=1C=CC2=C(C(=NCC(N2CCCl)CCl)C2=CC=CC=C2)C1 | C18H17Cl3N2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 250 ml | [OH-].[Na+]
product | 1,2,4,4a-tetrahydro-9-chloro-7-phenyl-5H[1,4]oxazino-[4,3-a][1,4]benzodiazepine | 12.8 g | ClC=1C=CC2=C(C(=NCC3N2CCOC3)C3=CC=CC=C3)C1 | C18H17ClN2O
